US07157487B2
Methyl 3-indazolylcarboxylate (2.0 g, 11.4 mmol) was dissolved in DMF (20 ml). To the resulting solution were added 4-methoxybenzyl chloride (1.7 ml, 12.5 mmol) and potassium carbonate (2.35 g, 17.0 mmol). The resulting mixture was stirred at 80° C. for 15 hours. After cooling, the reaction mixture was poured in water (50 ml), followed by extraction with ethyl acetate (200 ml). The extract was washed with saturated brine (2×100 ml), dried over anhydrous magnesium sulfate, and distilled under reduced pressure to remove the solvent. The residue was purified by chromatography on a silica gel column, whereby from hexane-ethyl acetate (4:1) eluate fractions, methyl 1-(4-methoxybenzyl)-3-indazolylcarboxylate (polar fractions, 838 mg, 25%) was obtained as a pale yellow oil and 2(4-methoxybenzyl) isomer (non-polar fractions, 500 mg, 15%) was obtained as a pale yellow oil.

reactant | Methyl 3-indazolylcarboxylate | 11.4 mmol, 2.0 g | N1N=C(C2=CC=CC=C12)C(=O)OC | C9H8N2O2
reactant | 4-methoxybenzyl chloride | 12.5 mmol, 1.7 ml | COC1=CC=C(CCl)C=C1 | C8H9ClO
reactant | potassium carbonate | 17.0 mmol, 2.35 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | water | 50 ml | O | H2O
product | methyl 1-(4-methoxybenzyl)-3-indazolylcarboxylate | 838 mg, 25% | COC1=CC=C(CN2N=C(C3=CC=CC=C23)C(=O)OC)C=C1 | C17H16N2O3
